US07199120B2
d) 4-[7-Chloro-2-(2-furyl) pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine
Cyclopentylguanidine hydrochloride (1.53 g, 9.38 mmol) and potassium carbonate (0.78 g. 5.63 mmol) were added to 80 mL of ethanol. The suspension was stirred at room temperature for 1 hour. 1-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (1.27 g, 4.69 mmol) was added to the resultant solution and stirred at room temperature for 24 hours. The reaction mixture was concentrated and ethyl acetate and water were added. The phases were separated, the organic phase was dried over magnesium sulfate, filtered and concentrated. Purification by flash chromatography (3:7 ethyl acetatehexanes). gave 4-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (520 mg, 30%) as a yellow solid. 1H NMR (CDCl3): δ 8.28 (d, 1H), 8.22 (d, 1H), 7.58 (d, 1H), 7.23 (m, 1H), 7.04 (d, 1H), 6.92 (d, 1H), 6.62 (d, 1H), 6.53 (m, 1H), 5.16 (d, 1H), 4.35 (m, 1H), 2.07 (m, 2H), 1.77–1.52 (m, 6H). MS m/z 380 (M+1).

reactant | Cyclopentylguanidine hydrochloride | 9.38 mmol, 1.53 g | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 5.63 mmol, 0.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[7-Chloro-2-(2-furyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 4.69 mmol, 1.27 g | ClC1=CC=CC=2N1N=C(C2C(C#C)=O)C=2OC=CC2 | C14H7ClN2O2
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 4-[7-Chloro-2-(2-furyl) pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2OC=CC2 | C20H18ClN5O
